US07638517B2
To a RT solution of 2-[phenyl-(1H-pyrrolo[2,3-c]pyridin-3-yl)-methyl]-malonic acid diethyl ester (0.33 g) in MeOH (30 mL) was added NaOH (2 M in water, 10 ml). The mixture was refluxed for 5h, cooled to RT, and concentrated. The residue was acidified by addition of HCl (1 M) and extracted with EtOAc. The combined extracts were refluxed for 10 h, cooled to RT, and concentrated. The residue was partitioned between water and EtOAc and extracted 3 times with EtOAc. The combined organic layers were dried over Na2SO4, filtered, and concentrated, affording crude 3-Phenyl-3-(1H-pyrrolo[2,3-c]pyridin-3-yl)-propionic acid (224 mg, 94% yield), which was used in the next step without further purification.

reactant | 2-[phenyl-(1H-pyrrolo[2,3-c]pyridin-3-yl)-methyl]-malonic acid diethyl ester | 0.33 g | C(C)OC(C(C(=O)OCC)C(C1=CNC2=CN=CC=C21)C2=CC=CC=C2)=O | C21H22N2O4
reactant | NaOH | 2 M, 10 ml | [OH-].[Na+]
solvent | MeOH | 30 mL | CO | CH4O
product | 3-Phenyl-3-(1H-pyrrolo[2,3-c]pyridin-3-yl)-propionic acid | 224 mg, 94% yield | C1(=CC=CC=C1)C(CC(=O)O)C1=CNC2=CN=CC=C21 | C16H14N2O2
